US07732463B2
1-Bromo-2-(2-chloro-4-methoxy-phenylsulfanyl)-benzene (intermediate for 1m).
Prepared from 2-bromo-benzenethiol and 2-chloro-1-iodo-4-methoxy-benzene (prepared from 4-amino-3-chloro-phenol by diazotization according to the general procedure by Tunney and Stille J. Org. Chem. 1987, 52, 748-753 followed by alkylation with methyl iodide according to the general procedure by Uozumi et al. J. Org. Chem. 1993, 58, 1945-1945)

reactant | 2-bromo-benzenethiol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chloro-1-iodo-4-methoxy-benzene | ClC1=C(C=CC(=C1)OC)I | C7H6ClIO
reactant | 4-amino-3-chloro-phenol | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | methyl iodide | CI | CH3I
product | 1-Bromo-2-(2-chloro-4-methoxy-phenylsulfanyl)-benzene | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)OC)Cl | C13H10BrClOS
